US04128644
A. 5,6-Dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid, ethyl ester
A solution of 48 g (0.30 mole) of 3-diazooxindole and 38.7 g (0.39 mol) of ethyl propiolate in 2 l. of benzene is refluxed overnight. The reaction mixture is cooled to room temperature and the crude product filtered, wt.=60 g. Crystallization from absolute ethanol gives 54 g, m.p. 242°-244° (Sl. d.).

reactant | 3-diazooxindole | 0.30 mole, 48 g | [N+](=[N-])=C1C(NC2=CC=CC=C12)=O | C8H5N3O
reactant | ethyl propiolate | 0.39 mol, 38.7 g | C(C#C)(=O)OCC | C5H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5,6-Dihydro-5-oxopyrazolo[1,5-c]quinazoline-2-carboxylic acid, ethyl ester | O=C1NC=2C=CC=CC2C=2N1N=C(C2)C(=O)OCC | C13H11N3O3
